US03952050
a. 3,3a,8,8a-Tetrahydro-cyclopent[a]inden-1[2H]-one
3,8-Dihydrocyclopent[a]inden-1[2H]-one (7.6 g.) in ethanol (400 ml) was hydrogenated at atmospheric pressure and room temperature in the presence of 10% palladium on charcoal (0.9 g) until one molar equivalent of hydrogen had been absorbed. The catalyst was filtered off and the filtrate evaporated to dryness to give a brown gum which was distilled at 90° /0.1 torr to produce a colourless oil.

reactant | 3,8-Dihydrocyclopent[a]inden-1[2H]-one | 7.6 g | C1(CCC2=C1CC=1C=CC=CC21)=O | C12H10O
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 400 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 0.9 g | [Pd] | Pd
product | 3,3a,8,8a-Tetrahydro-cyclopent[a]inden-1[2H]-one | C1(CCC2C1CC=1C=CC=CC21)=O | C12H12O
